US08030302B2
N-(5-(Benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-yl)-N-(tetrahydro-2H-pyran-4-yl)acetamide
To a solution of 5-(benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-N-(tetrahydro-2H-pyran-4-yl)-1H-indazol-6-amine (1.87 g, 4.59 mmol) in THF (30 mL) is added acetyl chloride (0.39 mL, 5.48 mmol) and K2CO3 (760 mg, 5.50 mmol). After the reaction mixture is heated to reflux for 30 min, H2O (20 mL) and EtOAc (30 mL) are added. The organic phase is separated, washed with saturated aqueous NH4Cl, dried and concentrated to give the product (1.7 g, 82.4% yield). MS (m/z): 450.2 (M+H).

reactant | 5-(benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-N-(tetrahydro-2H-pyran-4-yl)-1H-indazol-6-amine | 4.59 mmol, 1.87 g | C(C1=CC=CC=C1)OC=1C=C2C=NN(C2=CC1NC1CCOCC1)C1OCCCC1 | C24H29N3O3
reactant | acetyl chloride | 5.48 mmol, 0.39 mL | C(C)(=O)Cl | C2H3ClO
reactant | K2CO3 | 5.50 mmol, 760 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 20 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | N-(5-(Benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-yl)-N-(tetrahydro-2H-pyran-4-yl)acetamide | 1.7 g, 82.4% yield | C(C1=CC=CC=C1)OC=1C=C2C=NN(C2=CC1N(C(C)=O)C1CCOCC1)C1OCCCC1 | C26H31N3O4
